US08664220B2
Step 2: 1-{4′-[4-(4-Benzyl-[1,2,3]triazol-1-ylmethyl)-3-methyl-isoxazol-5-yl]-biphenyl-4-yl}-cyclopropanecarboxylic acid ethyl ester
To a solution of 1-[4′-(4-azidomethyl-3-methyl-isoxazol-5-yl)-biphenyl-4-yl]-cyclopropanecarboxylic acid ethyl ester (0.183 g, 0.45 mmol) in tBuOH (1.5 mL) and H2O (1.5 mL) was added 3-phenyl-1-propyne (0.053 g, 0.45 mmol), followed by sodium ascorbate (0.009 g, 0.045 mmol) and copper(II) sulfate pentahydrate (0.001 g, 0.005 mmol), and the reaction was stirred overnight. After aqueous workup, the crude material was purified by silica gel chromatography to give the title compound.

reactant | 1-[4′-(4-azidomethyl-3-methyl-isoxazol-5-yl)-biphenyl-4-yl]-cyclopropanecarboxylic acid ethyl ester | 0.45 mmol, 0.183 g | C(C)OC(=O)C1(CC1)C1=CC=C(C=C1)C1=CC=C(C=C1)C1=C(C(=NO1)C)CN=[N+]=[N-] | C23H22N4O3
reactant | 3-phenyl-1-propyne | 0.45 mmol, 0.053 g | C1(=CC=CC=C1)CC#C | C9H8
reactant | sodium ascorbate | 0.045 mmol, 0.009 g | O=C1C(O)=C([O-])[C@H](O1)[C@@H](O)CO.[Na+]
solvent | tBuOH | 1.5 mL | CC(C)(C)O | C4H10O
solvent | H2O | 1.5 mL | O | H2O
catalyst | copper(II) sulfate pentahydrate | 0.005 mmol, 0.001 g | O.O.O.O.O.S(=O)(=O)([O-])[O-].[Cu+2]
product | 1-{4′-[4-(4-Benzyl-[1,2,3]triazol-1-ylmethyl)-3-methyl-isoxazol-5-yl]-biphenyl-4-yl}-cyclopropanecarboxylic acid ethyl ester | C(C)OC(=O)C1(CC1)C1=CC=C(C=C1)C1=CC=C(C=C1)C1=C(C(=NO1)C)CN1N=NC(=C1)CC1=CC=CC=C1 | C32H30N4O3
